US08975254B2
c) (S)-3-acetyl-N-(1-(4-chloro-3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide
The title compound was synthesized from (S)-4-(1-(2-aminopropyl)-4-chloro-1H-pyrazol-3-yl)-2-chlorobenzonitrile (518 mg, 1.75 mmol), 3-acetyl-1H-pyrazole-5-carboxylic acid (270 mg, 1.75 mmol), HOBt (285 mg, 2.1 mmol), DIPEA (0.367 mL, 2.1 mmol) and EDCI (404 mg, 2.1 mmol) using DCM as solvent using the method of Example 34(d) to afford 382 mg of the title compound. 1H NMR (400 MHz; d6-DMSO): δ 1.15 (d, 3H), 2.42 (s, 3H), 4.30 (m, 2H), 4.44 (m, 1H), 6.86 (s, 1H), 8.01 (m, 3H), 8.12 (s, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-4-chloro-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 1.75 mmol, 518 mg | N[C@H](CN1N=C(C(=C1)Cl)C1=CC(=C(C#N)C=C1)Cl)C | C13H12Cl2N4
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 1.75 mmol, 270 mg | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
reactant | HOBt | 2.1 mmol, 285 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 2.1 mmol, 0.367 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 2.1 mmol, 404 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-3-acetyl-N-(1-(4-chloro-3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | 382 mg | C(C)(=O)C1=NNC(=C1)C(=O)N[C@H](CN1N=C(C(=C1)Cl)C1=CC(=C(C=C1)C#N)Cl)C | C19H16Cl2N6O2
